data/mechanisms/records/IMS9-EQ9.32b.json
{"mechanism_id": "IMS9-EQ9.32b", "species": [{"species_id": "methyl_stearate_molecular_ion", "mapped_smiles": "[CH3:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:4]([1H:22])[CH2:3][CH2:2][C:1](=[O+:19])[O:20][CH3:21]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "distonic_enol_ion_mz298", "mapped_smiles": "[CH3:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:4][CH2:3][CH2:2][C:1](=[O+:19][1H:22])[O:20][CH3:21]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hexadecene_radical_cation_mz224", "mapped_smiles": "[CH2+:3][CH:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH3:18]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ester_enol_neutral", "mapped_smiles": "[CH2:2]=[C:1]([O:19][1H:22])[O:20][CH3:21]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_stearate_molecular_ion"]}, {"state_id": "state_rearranged", "species_ids": ["distonic_enol_ion_mz298"]}, {"state_id": "state_mz224", "species_ids": ["hexadecene_radical_cation_mz224", "ester_enol_neutral"]}], "steps": [{"step_id": "step_rH_gamma", "from_state": "state_precursor", "to_state": "state_rearranged", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 22]}, "target": {"type": "bond", "atom_maps": [19, 22]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [19]}, "target": {"type": "bond", "atom_maps": [19, 22]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 22]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_charge_migration_rejected", "from_state": "state_rearranged", "to_state": "state_mz224", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 19]}, "target": {"type": "lone_pair", "atom_maps": [19]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_gamma", "support_type": "textbook_proposed", "locator": {"page": 254, "equation": "9.32", "figure": null, "panel": null, "section": "9.4 Esters, 'Aliphatic methyl esters' (arrow labelled 'rH')"}, "confidence": 0.85, "curator_note": "The arrow labelled 'rH'. Book draws 2 arc(s) on the molecular ion, both single-barbed fishhooks, measured at 5x: one has its tail at the odd-electron dot of the '+.' above O19 and its head on the explicitly drawn gamma hydrogen (the oxygen's odd electron into the forming O-H bond); the other has its tail on the C4-H22 bond and its head pointing up-right at the oxygen (one C-H electron into that same forming bond). Moves <1,2> are those two arcs. Move <3> is NOT drawn: the second C4-H22 electron remaining on C4 as the new radical site, which is what the page prints on the next structure (a radical dot on the carbon immediately right of 'C14H29') and what drives the beta-cleavage. Classic six-membered McLafferty transition state H22-C4-C3-C2-C1-O19; no mass changes, the distonic product is still 298.2866. This first step is SHARED with IMS9-EQ9.32a and is not in dispute; only the second step of this record is the one the book crosses out. SUBSTRATE: the page draws 'C14H29-' attached to a spelled-out four-carbon tail -CH(H)-CH2-CH2-C(=O)-OCH3, with the gamma hydrogen written EXPLICITLY and '+.' above the carbonyl oxygen. C14H29 + those four carbons + OCH3 = C19H38O2, so this is the SAME compound as equation 9.31, methyl octadecanoate (methyl stearate), M+. 298.2866 -- confirmed by the page's own product labels 224 and 74, which sum to 298.2866. ATOM MAPS are deliberately identical to the IMS9-EQ9.31 records: 1 = carbonyl carbon, 2 = alpha, 3 = beta, 4 = gamma (the H donor), 5..18 = the C14H29 chain, 19 = carbonyl oxygen, 20 = ester oxygen, 21 = methoxy carbon, 22 = THE MIGRATING GAMMA HYDROGEN. The prose introducing both equations: 'Methyl esters that do not contain an additional functionality show the expected reactions of the carbonyl group -- alpha-cleavage (Equation 9.31) and beta-cleavage with gamma-hydrogen rearrangement (Equation 9.32).'"}, {"evidence_id": "evidence_step_rejected", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_charge_migration_rejected", "support_type": "contradicted", "locator": {"page": 254, "equation": "9.32", "figure": null, "panel": null, "section": "9.4 Esters (the CROSSED-OUT arrow from the distonic ion to m/z 224)"}, "confidence": 0.8, "curator_note": "*** THE BOOK CROSSES THIS CHANNEL OUT. *** The arrow leaving the distonic ion up and to the right, towards 'C14H29CH=CH2+.' labelled 'm/z 224', is struck through with a large cross (a vertical and a horizontal stroke over the shaft, unmistakable at 5x on the native scan) -- the same negation device recorded for IMS8-EQ8.20b and IMS8-EQ8.25b. So this record exists to hold a NEGATIVE result and is stored with support_type=contradicted and its peak status='rejected'. WHAT IS BEING DENIED: not the bond cleavage, but the CHARGE PARTITION. This is the same C2-C3 beta-cleavage as IMS9-EQ9.32a; the difference is that the charge would migrate to the hydrocarbon (giving the alkene radical cation, m/z 224) instead of staying on the ester enol (m/z 74). The book's message is that for methyl esters the complementary McLafferty pair does NOT both occur -- contrast IMS9-EQ9.26d/e and IMS9-EQ9.28a/b, where the same page offers both partitions with 'or'. Here it offers one and strikes the other. Book draws 0 arc(s) for the crossed-out step (the crossing-out is on the reaction arrow, not on any structure), so both moves are curator-supplied and are written as the minimal two-electron bookkeeping that would produce the printed products: the C1=O19 pi pair collapsing onto O19 (which is what would neutralise the ester half) and the C2-C3 pair closing the enol's C1=C2 bond, leaving C3 as the cation while the C4 radical stays put. The arrow-check reports the expected soft lone-pair line on atom 19. PRODUCT-FORM DISCLOSURE: the page draws m/z 224 as the intact alkene 'C14H29CH=CH2' with a single delocalised '+.', which a mapped SMILES cannot carry (a full-valence C16H32 cannot hold charge +1 and one unpaired electron), so the stored graph is the 1,2-distonic localization the encoded arrows produce -- identical connectivity, one bond order different -- exactly as in IMS9-EQ9.28b and IMS9-EQ9.26e. MEASUREMENTS (convention F): the page labels m/z 224 and m/z 74 (and eq 9.31 on the previous page labels the same molecular ion m/z 298); each matches the computed exact mass of the encoded structure -- 74.0362 for the ester enol ion, 224.2499 for the hydrocarbon radical cation, 298.2866 for M+.. No percentage is printed in the equation, so no relative_intensity is stored. The prose further down the page does quote real numbers for a BRANCHED homolog ('the spectrum of n-C18H37C(CH3)2-CH2COOCH3 shows a C21H43+ peak of 60% abundance (m/z 115, 100%; m/z 74, 75%)'), but that is a different compound and is quoted here rather than stored."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 298.2866, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_298", "species_id": "methyl_stearate_molecular_ion", "step_id": null, "observed_mz": 298.2866, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_224_rejected", "species_id": "hexadecene_radical_cation_mz224", "step_id": "step_alpha_charge_migration_rejected", "observed_mz": 224.2499, "relative_intensity": null, "hydrogen_shift": -1, "isotope_offset": 0, "status": "rejected", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-11T00:00:00Z", "modified_at": "2026-08-11T00:00:00Z"}}
